US06770662B2
14 ml (20 mmol) of n-butyllithium (1.5 M hexane solution) was dropwise added at 0° C. to a solution having 2.9 ml (21 mmol) of diisopropylamine dissolved in 62 ml of tetrahydrofuran, followed by stirring for 30 minutes. The solution was cooled to −20° C., a solution having 4.0 g (19 mmol) of 2,6-dichloro-4-trifluoromethylpyridine dissolved in 5 ml of tetrahydrofuran was added thereto, followed by stirring for 5 minutes, and a solution having 3.8 g (18 mmol) of 2,3,4-trimethoxy-6-methylbenzaldehyde dissolved in 7 ml of tetrahydrofuran was added thereto, followed by stirring for 1.5 hours. 30 ml of water was added to the mixture to terminate the reaction, and tetrahydrofuran was distilled off under reduced pressure. Extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product thus obtained was purified by silica gel column chromatography to obtain 6.2 g (yield 81%) of (2,3,4-trimethoxy-6-methylphenyl)(2,6-dichloro-4-trifluoromethyl-3-pyridyl)methanol (brown oily substance).

reactant | n-butyllithium | 20 mmol, 1.5 M, 14 ml | C(CCC)[Li]
reactant | diisopropylamine | 21 mmol, 2.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-dichloro-4-trifluoromethylpyridine | 19 mmol, 4.0 g | ClC1=NC(=CC(=C1)C(F)(F)F)Cl | C6H2Cl2F3N
reactant | 2,3,4-trimethoxy-6-methylbenzaldehyde | 18 mmol, 3.8 g | COC1=C(C=O)C(=CC(=C1OC)OC)C | C11H14O4
solvent | tetrahydrofuran | 62 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | (2,3,4-trimethoxy-6-methylphenyl)(2,6-dichloro-4-trifluoromethyl-3-pyridyl)methanol | 6.2 g, yield 81% | COC1=C(C(=CC(=C1OC)OC)C)C(O)C=1C(=NC(=CC1C(F)(F)F)Cl)Cl | C17H16Cl2F3NO4
